US07897619B2
tert-Butyl(R)-4-(1-(1H-indazol-5-yl)-1H-1,2,3-triazol-4-yl)-1-(6-(trifluoromethyl)pyridin-3-yl)butan-2-ylcarbamate:
A mixture of 5-azido-1H-indazole (126 mg, 789 μmol), (R)-tert-butyl 1-(6-(trifluoromethyl)pyridin-3-yl)hex-5-yn-2-ylcarbamate (270 mg, 789 μmol), CuSO4 (6.3 mg, 39 μmol), and sodium ascorbate (16 mg, 79 μmol) in t-BuOH/H2O (1:1, 2 mL) was stirred at room temperature for 8 hours. The mixture was partitioned between saturated aqueous NaCO3 (15 mL) and DCM (15 ml). The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×15 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The resulting yellow solid was dissolved in MeOH/DCM, absorbed onto silica gel, and purified by flash chromatography (silica gel, 3% to 8% MeOH/DCM) to deliver tert-butyl(R)-4-(1-(1H-indazol-5-yl)-1H-1,2,3-triazol-4-yl)-1-(6-(trifluoromethyl)pyridin-3-yl)butan-2-ylcarbamate (85 mg, 21%) as a light yellow solid. LCMS (API-ES) m/z: 502.1 (M+H+).

reactant | 5-azido-1H-indazole | 789 μmol, 126 mg | N(=[N+]=[N-])C=1C=C2C=NNC2=CC1 | C7H5N5
reactant | (R)-tert-butyl 1-(6-(trifluoromethyl)pyridin-3-yl)hex-5-yn-2-ylcarbamate | 789 μmol, 270 mg | FC(C1=CC=C(C=N1)C[C@@H](CCC#C)NC(OC(C)(C)C)=O)(F)F | C17H21F3N2O2
reactant | sodium ascorbate | 79 μmol, 16 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH H2O | 2 mL | CC(C)(C)O.O
catalyst | CuSO4 | 39 μmol, 6.3 mg | [O-]S(=O)(=O)[O-].[Cu+2]
product | tert-Butyl(R)-4-(1-(1H-indazol-5-yl)-1H-1,2,3-triazol-4-yl)-1-(6-(trifluoromethyl)pyridin-3-yl)butan-2-ylcarbamate | N1N=CC2=CC(=CC=C12)N1N=NC(=C1)CC[C@H](CC=1C=NC(=CC1)C(F)(F)F)NC(OC(C)(C)C)=O | C24H26F3N7O2
